US09421205B2
(c) tert-Butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperazine-1-carboxylate (I3)
2,4-Dichloro-5-(trifluoromethyl)pyrimidine (2.39 g, 11.0 mmol) was stirred in a 1:1 t-BuOH:1,2-dichloroethane mixture (80 mL) at 0° C. and a 1.0 M ZnCl2 solution in diethyl ether (12.6 mL, 12.6 mmol) was added cautiously over 20 minutes and the reaction was left stirring at 0° C. for 30 minutes. A solution of tert-butyl 4-(4-aminophenyl)piperazine-1-carboxylate (I2) (2.92 g, 10.5 mmol) in 1:1 t-BuOH:1,2-dichloroethane (40 mL) was added drop-wise over 15 minutes at 0° C. followed by a solution of triethylamine (1.76 mL, 12.6 mmol) in 1:1 t-BuOH:1,2-dichloroethane (40 mL) and the reaction was allowed to warm to room temperature and was stirred for 18 hours. The organic solvents were evaporated in vacuo and the crude yellow oily solid was suspended in water (400 mL), the suspension was sonicated for 30 minutes and the product was collected by filtration, the solid was washed with water (10×20 mL) and dried under a high vacuum to give the title compound (I3) (4.75 g, 98% yield) as a beige solid; 1H NMR (400 MHz, d6-DMSO) δ 10.45 (s, 1H), 8.72 (s, 1H), 7.50 (d, J=8.5 Hz, 2H), 6.96 (d, J=9.0 Hz, 2H), 3.50-3.42 (m, 4H), 3.09-3.02 (m, 4H), 1.42 (s, 9H). LCMS Method C: rt 6.56 min; m/z 456.2, 458.1 [M−H]−.

reactant | 2,4-Dichloro-5-(trifluoromethyl)pyrimidine | 11.0 mmol, 2.39 g | ClC1=NC=C(C(=N1)Cl)C(F)(F)F | C5HCl2F3N2
reactant | diethyl ether | 12.6 mmol, 12.6 mL | C(C)OCC | C4H10O
reactant | tert-butyl 4-(4-aminophenyl)piperazine-1-carboxylate | 10.5 mmol, 2.92 g | NC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H23N3O2
reactant | triethylamine | 12.6 mmol, 1.76 mL | C(C)N(CC)CC | C6H15N
catalyst | ZnCl2 | 1.0 M | [Cl-].[Cl-].[Zn+2]
solvent | 1,2-dichloroethane | 40 mL | ClCCCl | C2H4Cl2
solvent | t-BuOH | CC(C)(C)O | C4H10O
solvent | 1,2-dichloroethane | 40 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 80 mL | ClCCCl | C2H4Cl2
product | tert-Butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperazine-1-carboxylate | 4.75 g, 98% yield | ClC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C20H23ClF3N5O2
